*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-08-18 11:32:23
*********************************************************

.SUBCKT pam4drv_pam4_lay sub msbn lsbp vcmb lsbn msbp tmsb0 tlsb0 tmsb1 vcasc outp outn vcc
XQ_1 \$49 msbp \$10 sub npn13G2 Nx=3
XQ_2 \$50 msbn \$11 sub npn13G2 Nx=3
XQ_3 \$51 lsbp \$12 sub npn13G2 Nx=3
XQ_4 \$52 lsbn \$13 sub npn13G2 Nx=3
XQ_5 \$53 msbp \$14 sub npn13G2 Nx=3
XQ_6 \$54 msbn \$15 sub npn13G2 Nx=3
XQ_7 outp vcasc \$49 sub npn13G2 Nx=3
XQ_8 outn vcasc \$50 sub npn13G2 Nx=3
XQ_9 outp vcasc \$51 sub npn13G2 Nx=3
XQ_10 outn vcasc \$52 sub npn13G2 Nx=3
XQ_11 outp vcasc \$53 sub npn13G2 Nx=3
XQ_12 outn vcasc \$54 sub npn13G2 Nx=3
XR_13 vcmb lsbp sub rsil w=0.5u l=2.14u m=1
XR_14 vcmb lsbn sub rsil w=0.5u l=2.14u m=1
XR_15 vcmb msbp sub rsil w=0.5u l=2.14u m=1
XR_16 vcmb msbn sub rsil w=0.5u l=2.14u m=1
XR_17 tmsb0 \$10 sub rsil w=4.5u l=0.77u m=1
XR_18 tmsb0 \$11 sub rsil w=4.5u l=0.77u m=1
XR_19 tlsb0 \$12 sub rsil w=4.5u l=0.77u m=1
XR_20 tlsb0 \$13 sub rsil w=4.5u l=0.77u m=1
XR_21 tmsb1 \$14 sub rsil w=4.5u l=0.77u m=1
XR_22 tmsb1 \$15 sub rsil w=4.5u l=0.77u m=1
XR_23 outp vcc sub rsil w=1.4u l=8.71u m=1
XR_24 outn vcc sub rsil w=1.4u l=8.71u m=1
Cext_1 \$10 \$11 1.03052f
Cext_2 \$10 \$49 1.33716f
Cext_3 \$10 \$50 21.3202a
Cext_4 \$10 msbn 2.91381a
Cext_5 \$10 msbp 768.764a
Cext_6 \$10 sub 11.7772a
Cext_7 \$10 tmsb0 359.551a
Cext_8 \$10 vcasc 15.4584a
Cext_9 \$10 sub 2.95563f
Cext_10 \$11 \$49 3.26301a
Cext_11 \$11 \$50 1.32464f
Cext_12 \$11 msbn 757.613a
Cext_13 \$11 msbp 14.2051a
Cext_14 \$11 sub 4.24404a
Cext_15 \$11 tmsb0 356.328a
Cext_16 \$11 vcasc 9.61824a
Cext_17 \$11 sub 2.89792f
Cext_18 \$12 \$13 1.03052f
Cext_19 \$12 \$51 1.33716f
Cext_20 \$12 \$52 21.3202a
Cext_21 \$12 lsbn 2.91381a
Cext_22 \$12 lsbp 754.693a
Cext_23 \$12 msbp 14.7963a
Cext_24 \$12 sub 4.24404a
Cext_25 \$12 tlsb0 359.551a
Cext_26 \$12 vcasc 15.4584a
Cext_27 \$12 sub 2.95905f
Cext_28 \$13 \$51 3.26301a
Cext_29 \$13 \$52 1.32464f
Cext_30 \$13 lsbn 757.613a
Cext_31 \$13 lsbp 1.87013a
Cext_32 \$13 msbp 12.335a
Cext_33 \$13 sub 4.24404a
Cext_34 \$13 tlsb0 356.328a
Cext_35 \$13 vcasc 9.61824a
Cext_36 \$13 sub 2.89792f
Cext_37 \$14 \$15 1.03052f
Cext_38 \$14 \$53 1.33716f
Cext_39 \$14 \$54 21.3202a
Cext_40 \$14 msbn 2.91381a
Cext_41 \$14 msbp 754.91a
Cext_42 \$14 sub 4.24404a
Cext_43 \$14 tmsb1 359.551a
Cext_44 \$14 vcasc 15.4584a
Cext_45 \$14 sub 2.96431f
Cext_46 \$15 \$53 3.26301a
Cext_47 \$15 \$54 1.32464f
Cext_48 \$15 msbn 757.613a
Cext_49 \$15 msbp 1.87013a
Cext_50 \$15 sub 8.6267a
Cext_51 \$15 tmsb1 356.328a
Cext_52 \$15 vcasc 9.61824a
Cext_53 \$15 sub 2.89695f
Cext_54 \$49 msbp 50.9328a
Cext_55 \$49 outp 1.40907f
Cext_56 \$49 sub 37.2364a
Cext_57 \$49 vcasc 751.275a
Cext_58 \$49 sub 2.09378f
Cext_59 \$50 msbn 50.9328a
Cext_60 \$50 outn 1.38883f
Cext_61 \$50 outp 18.8477a
Cext_62 \$50 sub 39.0265a
Cext_63 \$50 vcasc 761.135a
Cext_64 \$50 sub 2.08979f
Cext_65 \$51 lsbp 50.9328a
Cext_66 \$51 outp 1.41349f
Cext_67 \$51 sub 39.0265a
Cext_68 \$51 vcasc 761.135a
Cext_69 \$51 sub 2.08979f
Cext_70 \$52 lsbn 50.9328a
Cext_71 \$52 outn 1.38883f
Cext_72 \$52 outp 18.8477a
Cext_73 \$52 sub 39.0265a
Cext_74 \$52 vcasc 761.135a
Cext_75 \$52 sub 2.08979f
Cext_76 \$53 msbp 50.9328a
Cext_77 \$53 outp 1.41349f
Cext_78 \$53 sub 39.0265a
Cext_79 \$53 vcasc 761.135a
Cext_80 \$53 sub 2.08979f
Cext_81 \$54 msbn 50.9328a
Cext_82 \$54 outn 1.38883f
Cext_83 \$54 outp 14.4261a
Cext_84 \$54 sub 31.567a
Cext_85 \$54 vcasc 744.688a
Cext_86 \$54 sub 2.10207f
Cext_87 lsbn lsbp 46.738a
Cext_88 lsbn msbn 206.983a
Cext_89 lsbn msbp 127.4a
Cext_90 lsbn tlsb0 79.4517a
Cext_91 lsbn vcmb 63.6039a
Cext_92 lsbp msbn 219.304a
Cext_93 lsbp msbp 86.444a
Cext_94 lsbp tlsb0 79.4517a
Cext_95 lsbp vcmb 12.8044a
Cext_96 msbn msbp 973.433a
Cext_97 msbn sub 17.7516a
Cext_98 msbn tlsb0 17.5829a
Cext_99 msbn tmsb0 79.6139a
Cext_100 msbn tmsb1 143.596a
Cext_101 msbn vcmb 9.40285a
Cext_102 msbp sub 20.4137a
Cext_103 msbp tlsb0 192.127a
Cext_104 msbp tmsb0 247.966a
Cext_105 msbp tmsb1 83.134a
Cext_106 msbp vcmb 9.40285a
Cext_107 outn outp 2.36286f
Cext_108 outn sub 923.058a
Cext_109 outn vcasc 152.2a
Cext_110 outn vcc 9.85394a
Cext_111 outp sub 1.98588f
Cext_112 outp vcasc 152.2a
Cext_113 outp vcc 9.85394a
Cext_114 sub tmsb0 9.99605a
Cext_115 sub tmsb1 8.54588a
Cext_116 sub vcasc 438.123a
Cext_117 sub vcc 648.209a
Cext_118 sub vcmb 905.81a
Cext_119 sub lsbn 3.46631f
Cext_120 sub lsbp 3.21972f
Cext_121 sub msbn 7.49088f
Cext_122 sub msbp 7.1206f
Cext_123 sub outn 16.6918f
Cext_124 sub outp 14.2046f
Cext_125 sub sub 48.3834f
Cext_126 sub tlsb0 3.5839f
Cext_127 sub tmsb0 3.59546f
Cext_128 sub tmsb1 3.59737f
Cext_129 sub vcasc 7.24388f
Cext_130 sub vcc 9.35517f
Cext_131 sub vcmb 9.73326f
XCdeg_r0 \$10 \$11 cap_cmim w=3.21u l=3.21u
XCdeg_r1 \$12 \$13 cap_cmim w=3.21u l=3.21u
XCdeg_r2 \$14 \$15 cap_cmim w=3.21u l=3.21u
.ENDS pam4drv_pam4_lay
